US06156161
A particularly desirable process permitted by the instant invention relates to HFC-32 that is synthecised with, or subsequently added to an HFC-125 stream which contains HF and CFC-115. The presence of HFC-32 permits the HFC-125 to be separated from the HF in a first column via removal of an HFC-32/HFC-125 azeotrope as distillate, wherein the HF may then be recycled from the bottoms to a fluorination reactor. The presence of HFC-32 also allows for separating CFC-115 from the HFC-125 in a second column by forming the CFC-115/HFC-32 azeotrope and distilling the CFC-115/HFC-32 azeotrope overhead, recovering the HFC-125 from the bottoms as product substantially-free of HF and CFC-115. By "substantially-free" is meant that the HFC-125 product contains less than about 500 ppm of HF and CFC-115, more typically less than about 50 ppm HF and CFC-115.

reactant | HFC-32 | C(F)F | CH2F2
reactant | HFC-125 | C(C(F)(F)F)(F)F | C2HF5
reactant | CFC-115 | C(C(F)(F)Cl)(F)(F)F | C2ClF5
product | CFC-115 HFC-32 | C(C(F)(F)Cl)(F)(F)F.C(F)F | InChI=1S/C2ClF5.CH2F2/c3-1(4,5)2(6,7)8;2-1-3/h;1H2
